US08217069B2
9-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(2-hydroxyethoxy)phenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one
To a mixture of 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxy-carbonylmethoxyphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one (0.58 g) in ethanol (15 mL)-tetrahydrofuran (7.5 mL) was added sodium borohydride (0.2 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/2−ethyl acetate) to give the title compound (0.52 g).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxy-carbonylmethoxyphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one | 0.58 g | ClC1=C(C=C(C(=C1OC=C=O)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C | C24H19ClF2N4O7
reactant | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.2 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | 9-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(2-hydroxyethoxy)phenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one | 0.52 g | ClC1=C(C=C(C(=C1)OCCO)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C | C23H21ClF2N4O6
